US06455528B1
(1) Synthesis of N-(1-(4-Chloromethylphenyl)cyclopropyl)acetamide
To a solution of N-(1-phenylcyclopropyl)acetamide (5.0 g) in methylene chloride (35 ml) was added titanium tetrachloride (6.26 ml) under ice-cooling and to this solution was added dropwise a solution of methoxymethyl chloride (4.33 ml) in methylene chloride (15 ml) over 10 min under ice-cooling. The mixture was stirred at room temperature for 14 hr. The reaction mixture was poured into ice water and extracted with chloroform (50 ml). The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (developing solvent; ethyl acetate) to give the title compound (3.71 g) as white crystals, m.p.=124-127° C.

reactant | N-(1-phenylcyclopropyl)acetamide | 5.0 g | C1(=CC=CC=C1)C1(CC1)NC(C)=O | C11H13NO
reactant | methoxymethyl chloride | 4.33 ml | COCCl | C2H5ClO
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 6.26 ml | [Ti](Cl)(Cl)(Cl)Cl
product | N-(1-(4-Chloromethylphenyl)cyclopropyl)acetamide | 3.71 g | ClCC1=CC=C(C=C1)C1(CC1)NC(C)=O | C12H14ClNO
